US07348337B2
Preparation of 4-[1-Phenyl-1-(5-(azetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester:
To a solution of 4-[1-phenyl-1-(5-(N-(9-fluorenylmethoxycarbonyl)azetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester(0.161 g, 0.260 mmol) and heptanethiol (0.398 mL, 2.60 mmol) in THF (2.6 mL) at rt was added DBU (2 drops). The mixture was allowed to stir for 18 h and then the solvent was removed in vacuo. The residue was dissolved in MeOH and purified by preparative HPLC (NH4OAc) to afford the title compound (0.077 g, 74%) as a colorless solid:

reactant | 4-[1-phenyl-1-(5-(N-(9-fluorenylmethoxycarbonyl)azetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester | 0.260 mmol, 0.161 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C1CN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C37H38N4O5
reactant | heptanethiol | 2.60 mmol, 0.398 mL | C(CCCCCC)S | C7H16S
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
catalyst | DBU | 2 drops | C1CCC2=NCCCN2CC1 | C9H16N2
product | 4-[1-Phenyl-1-(5-(azetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester | 0.077 g, 74% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C1CNC1)C1=CC=CC=C1 | C22H28N4O3
